US04255429
The mixture of 5.39 g of 4-amino-2-chloro-6,7,8-trimethoxy-quinazoline, 4.32 g of 2-(4-piperidinyl)-isoindolin-1-one, 4.24 g of anhydrous sodium carbonate and 75 ml of dimethylformamide is stirred under nitrogen at 125°-130° for 16 hours. It is filtered, the filtrate evaporated, the residue dissolved in methylene chloride and the solution washed with aqueous sodium bicarbonate. The organic layer is separated, dried, and evaporated. The residue is suspended in refluxing isopropanol and acidified with hydrogen chloride to pH=1. The precipitate formed is filtered off and triturated with warm ethanol to yield the 2-[1-(4-amino-6,7,8-trimethoxy-2-quinazolinyl)-4-piperidinyl]-isoindolin-1-one monohydrochloride melting at 234° (dec.).

reactant | 4-amino-2-chloro-6,7,8-trimethoxy-quinazoline | 5.39 g | NC1=NC(=NC2=C(C(=C(C=C12)OC)OC)OC)Cl | C11H12ClN3O3
reactant | 2-(4-piperidinyl)-isoindolin-1-one | 4.32 g | N1CCC(CC1)N1C(C2=CC=CC=C2C1)=O | C13H16N2O
reactant | sodium carbonate | 4.24 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 2-[1-(4-amino-6,7,8-trimethoxy-2-quinazolinyl)-4-piperidinyl]-isoindolin-1-one monohydrochloride | Cl.NC1=NC(=NC2=C(C(=C(C=C12)OC)OC)OC)N1CCC(CC1)N1C(C2=CC=CC=C2C1)=O | InChI=1S/C24H27N5O4.ClH/c1-31-18-12-17-19(21(33-3)20(18)32-2)26-24(27-22(17)25)28-10-8-15(9-11-28)29-13-14-6-4-5-7-16(14)23(29)30;/h4-7,12,15H,8-11,13H2,1-3H3,(H2,25,26,27);1H
